US05502036
Entry No. 47: The 2(S)-amino-4-methyl-5-hexenoic acid methyl ester employed for the preparation of this peptide was obtained by converting Boc-Ser-OH to its corresponding β-lactone by the method of J. C. Vederas et ai., J. Am. Chem. Soc., 107 7105 (1985) and reacting the β-lactone with the organolithium derivative derived from 2-propylene bromide according to the method of D. Seebach and H. Neumann, Chem. Ber., 107, 847 (1974) to give 2(S)-amino-4-methyl-5-hexenoic acid. Subsequent esterification of the latter compound with diazomethane gave the desired corresponding methyl ester.

reactant | 2(S)-amino-4-methyl-5-hexenoic acid methyl ester | COC([C@H](CC(C=C)C)N)=O | C8H15NO2
reactant | Boc-Ser-OH | N([C@@H](CO)C(=O)O)C(=O)OC(C)(C)C | C8H15NO5
product | 2(S)-amino-4-methyl-5-hexenoic acid | N[C@H](C(=O)O)CC(C=C)C | C7H13NO2
